M1 cont2 gate0 cont1 cont0 N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M2 cont3 gate1 cont2 cont0 N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M3 cont4 gate2 cont3 cont0 N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M4 cont5 gate3 cont1 cont0 N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M5 cont8 gate4 cont7 cont6 P w=1u l=0.25u As=0.275p Ad=0.2p Ps=2.55u Pd=1.4u  geo=1
M6 cont9 gate5 cont8 cont6 P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M7 cont10 gate6 cont9 cont6 P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M8 cont11 gate7 cont10 cont6 P w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
R1   aux1   aux2   0.010013721
R2   aux1   gate0  0.12889732
R3   aux1   aux3   0.15761746
R4   aux4   aux5   0.0097552672
R5   aux4   in     0.27001566
R6   aux4   gate3  0.13204494
R7   aux6   gate2  0.14478573
R8   aux6   gate4  0.14929546
R9   aux6   aux7   0.14456946
R10  aux5   aux2   0.15602472
R11  aux5   gate7  0.13431426
R12  aux2   gate6  0.13230736
R13  aux3   gate1  0.13334746
R14  aux3   aux7   0.0096571442
R15  aux7   gate5  0.13258256
R16  aux8   cont8  0.63237009
R17  aux8   cont3  0.61437288
R18  aux8   aux9   0.1260093
R19  aux10  cont10 0.60131569
R20  aux10  aux9   0.2735195
R21  aux10  cont1  0.62812431
R22  aux9   out    0.15109941
R23  aux11  cont0  2.0657602
R24  aux11  gnd    0.00021493754
R25  aux11  aux12  0.13955996
R26  aux12  cont5  0.62705176
R27  aux12  aux13  0.5682859
R28  aux13  cont4  1.1742451
R29  aux13  cont2  0.58893014
R30  aux14  aux15  0.13731179
R31  aux14  cont11 0.59429231
R32  aux14  aux16  0.56856028
R33  aux16  cont9  0.50497105
R34  aux16  cont7  1.1220169
R35  cont6  aux15  1.8042806
R36  vdd    aux15  8.5774191e-05
C1   cont1  cont2  2.4074881e-18
C2   cont1  gate0  2.9755535e-18
C3   cont1  cont0  2.4074881e-18
C4   cont1  gnd    2.4074881e-18
C5   cont1  in     2.9755535e-18
C6   cont1  gate1  2.9755535e-18
C7   cont1  cont4  2.4074881e-18
C8   cont1  gate2  2.9755535e-18
C9   cont1  cont5  2.4074881e-18
C10  cont1  gate3  2.9755535e-18
C11  cont1  cont7  2.4354666e-18
C12  cont1  gate4  2.9755535e-18
C13  cont1  cont6  2.4354666e-18
C14  cont1  vdd    2.4354666e-18
C15  cont1  cont9  2.4354666e-18
C16  cont1  gate5  2.9755535e-18
C17  cont1  gate6  2.9755535e-18
C18  cont1  cont11 2.4354666e-18
C19  cont1  gate7  2.9755535e-18
C20  cont1  aux1   8.9266606e-18
C21  cont1  aux2   8.9266606e-18
C22  cont1  aux3   8.9266606e-18
C23  cont1  aux4   8.9266606e-18
C24  cont1  aux5   8.9266606e-18
C25  cont1  aux6   8.9266606e-18
C26  cont1  aux7   8.9266606e-18
C27  cont1  aux11  7.2224643e-18
C28  cont1  aux12  7.2224643e-18
C29  cont1  aux13  7.2224643e-18
C30  cont1  aux14  7.3063997e-18
C31  cont1  aux15  7.3063997e-18
C32  cont1  aux16  7.3063997e-18
C33  cont2  gate0  1.8513687e-18
C34  out    cont2  2.4074881e-18
C35  cont2  in     1.8513687e-18
C36  cont3  cont2  2.4074881e-18
C37  cont2  gate1  1.8513687e-18
C38  cont2  gate2  1.8513687e-18
C39  cont2  gate3  1.8513687e-18
C40  cont2  cont7  3.5778697e-19
C41  cont8  cont2  2.4074881e-18
C42  cont2  gate4  1.8513687e-18
C43  cont2  cont6  3.5778697e-19
C44  cont2  vdd    3.5778697e-19
C45  cont2  cont9  3.5778697e-19
C46  cont2  gate5  1.8513687e-18
C47  cont10 cont2  2.4074881e-18
C48  cont2  gate6  1.8513687e-18
C49  cont2  cont11 3.5778697e-19
C50  cont2  gate7  1.8513687e-18
C51  cont2  aux1   5.554106e-18
C52  cont2  aux2   5.554106e-18
C53  cont2  aux3   5.554106e-18
C54  cont2  aux4   5.554106e-18
C55  cont2  aux5   5.554106e-18
C56  cont2  aux6   5.554106e-18
C57  cont2  aux7   5.554106e-18
C58  aux8   cont2  7.2224643e-18
C59  aux9   cont2  7.2224643e-18
C60  aux10  cont2  7.2224643e-18
C61  cont2  aux14  1.0733609e-18
C62  cont2  aux15  1.0733609e-18
C63  cont2  aux16  1.0733609e-18
C64  cont0  gate0  1.8513687e-18
C65  out    gate0  2.9755535e-18
C66  gnd    gate0  1.8513687e-18
C67  cont3  gate0  2.9755535e-18
C68  cont4  gate0  1.8513687e-18
C69  cont5  gate0  1.8513687e-18
C70  gate0  cont7  1.8358978e-18
C71  cont8  gate0  2.9755535e-18
C72  gate0  cont6  1.8358978e-18
C73  gate0  vdd    1.8358978e-18
C74  gate0  cont9  1.8358978e-18
C75  cont10 gate0  2.9755535e-18
C76  gate0  cont11 1.8358978e-18
C77  aux8   gate0  8.9266606e-18
C78  aux9   gate0  8.9266606e-18
C79  aux10  gate0  8.9266606e-18
C80  aux11  gate0  5.554106e-18
C81  aux12  gate0  5.554106e-18
C82  aux13  gate0  5.554106e-18
C83  gate0  aux14  5.5076935e-18
C84  gate0  aux15  5.5076935e-18
C85  gate0  aux16  5.5076935e-18
C86  out    cont0  2.4074881e-18
C87  cont0  in     1.8513687e-18
C88  cont3  cont0  2.4074881e-18
C89  cont0  gate1  1.8513687e-18
C90  cont0  gate2  1.8513687e-18
C91  cont0  gate3  1.8513687e-18
C92  cont0  cont7  3.5778697e-19
C93  cont8  cont0  2.4074881e-18
C94  cont0  gate4  1.8513687e-18
C95  cont0  cont6  3.5778697e-19
C96  cont0  vdd    3.5778697e-19
C97  cont0  cont9  3.5778697e-19
C98  cont0  gate5  1.8513687e-18
C99  cont10 cont0  2.4074881e-18
C100 cont0  gate6  1.8513687e-18
C101 cont0  cont11 3.5778697e-19
C102 cont0  gate7  1.8513687e-18
C103 cont0  aux1   5.554106e-18
C104 cont0  aux2   5.554106e-18
C105 cont0  aux3   5.554106e-18
C106 cont0  aux4   5.554106e-18
C107 cont0  aux5   5.554106e-18
C108 cont0  aux6   5.554106e-18
C109 cont0  aux7   5.554106e-18
C110 aux8   cont0  7.2224643e-18
C111 aux9   cont0  7.2224643e-18
C112 aux10  cont0  7.2224643e-18
C113 cont0  aux14  1.0733609e-18
C114 cont0  aux15  1.0733609e-18
C115 cont0  aux16  1.0733609e-18
C116 out    gnd    2.4074881e-18
C117 out    in     2.9755535e-18
C118 out    gate1  2.9755535e-18
C119 out    cont4  2.4074881e-18
C120 out    gate2  2.9755535e-18
C121 out    cont5  2.4074881e-18
C122 out    gate3  2.9755535e-18
C123 out    cont7  2.4354666e-18
C124 out    gate4  2.9755535e-18
C125 out    cont6  2.4354666e-18
C126 out    vdd    2.4354666e-18
C127 out    cont9  2.4354666e-18
C128 out    gate5  2.9755535e-18
C129 out    gate6  2.9755535e-18
C130 out    cont11 2.4354666e-18
C131 out    gate7  2.9755535e-18
C132 out    aux1   8.9266606e-18
C133 out    aux2   8.9266606e-18
C134 out    aux3   8.9266606e-18
C135 out    aux4   8.9266606e-18
C136 out    aux5   8.9266606e-18
C137 out    aux6   8.9266606e-18
C138 out    aux7   8.9266606e-18
C139 out    aux11  7.2224643e-18
C140 out    aux12  7.2224643e-18
C141 out    aux13  7.2224643e-18
C142 out    aux14  7.3063997e-18
C143 out    aux15  7.3063997e-18
C144 out    aux16  7.3063997e-18
C145 gnd    in     1.8513687e-18
C146 cont3  gnd    2.4074881e-18
C147 gnd    gate1  1.8513687e-18
C148 gnd    gate2  1.8513687e-18
C149 gnd    gate3  1.8513687e-18
C150 gnd    cont7  3.5778697e-19
C151 cont8  gnd    2.4074881e-18
C152 gnd    gate4  1.8513687e-18
C153 gnd    cont6  3.5778697e-19
C154 gnd    vdd    3.5778697e-19
C155 gnd    cont9  3.5778697e-19
C156 gnd    gate5  1.8513687e-18
C157 cont10 gnd    2.4074881e-18
C158 gnd    gate6  1.8513687e-18
C159 gnd    cont11 3.5778697e-19
C160 gnd    gate7  1.8513687e-18
C161 gnd    aux1   5.554106e-18
C162 gnd    aux2   5.554106e-18
C163 gnd    aux3   5.554106e-18
C164 gnd    aux4   5.554106e-18
C165 gnd    aux5   5.554106e-18
C166 gnd    aux6   5.554106e-18
C167 gnd    aux7   5.554106e-18
C168 aux8   gnd    7.2224643e-18
C169 aux9   gnd    7.2224643e-18
C170 aux10  gnd    7.2224643e-18
C171 gnd    aux14  1.0733609e-18
C172 gnd    aux15  1.0733609e-18
C173 gnd    aux16  1.0733609e-18
C174 cont3  in     2.9755535e-18
C175 cont4  in     1.8513687e-18
C176 cont5  in     1.8513687e-18
C177 in     cont7  1.8358978e-18
C178 cont8  in     2.9755535e-18
C179 in     cont6  1.8358978e-18
C180 in     vdd    1.8358978e-18
C181 in     cont9  1.8358978e-18
C182 cont10 in     2.9755535e-18
C183 in     cont11 1.8358978e-18
C184 aux8   in     8.9266606e-18
C185 aux9   in     8.9266606e-18
C186 aux10  in     8.9266606e-18
C187 aux11  in     5.554106e-18
C188 aux12  in     5.554106e-18
C189 aux13  in     5.554106e-18
C190 in     aux14  5.5076935e-18
C191 in     aux15  5.5076935e-18
C192 in     aux16  5.5076935e-18
C193 cont3  gate1  2.9755535e-18
C194 cont3  cont4  2.4074881e-18
C195 cont3  gate2  2.9755535e-18
C196 cont3  cont5  2.4074881e-18
C197 cont3  gate3  2.9755535e-18
C198 cont3  cont7  2.4354666e-18
C199 cont3  gate4  2.9755535e-18
C200 cont3  cont6  2.4354666e-18
C201 cont3  vdd    2.4354666e-18
C202 cont3  cont9  2.4354666e-18
C203 cont3  gate5  2.9755535e-18
C204 cont3  gate6  2.9755535e-18
C205 cont3  cont11 2.4354666e-18
C206 cont3  gate7  2.9755535e-18
C207 cont3  aux1   8.9266606e-18
C208 cont3  aux2   8.9266606e-18
C209 cont3  aux3   8.9266606e-18
C210 cont3  aux4   8.9266606e-18
C211 cont3  aux5   8.9266606e-18
C212 cont3  aux6   8.9266606e-18
C213 cont3  aux7   8.9266606e-18
C214 cont3  aux11  7.2224643e-18
C215 cont3  aux12  7.2224643e-18
C216 cont3  aux13  7.2224643e-18
C217 cont3  aux14  7.3063997e-18
C218 cont3  aux15  7.3063997e-18
C219 cont3  aux16  7.3063997e-18
C220 cont4  gate1  1.8513687e-18
C221 cont5  gate1  1.8513687e-18
C222 gate1  cont7  1.8358978e-18
C223 cont8  gate1  2.9755535e-18
C224 gate1  cont6  1.8358978e-18
C225 gate1  vdd    1.8358978e-18
C226 gate1  cont9  1.8358978e-18
C227 cont10 gate1  2.9755535e-18
C228 gate1  cont11 1.8358978e-18
C229 aux8   gate1  8.9266606e-18
C230 aux9   gate1  8.9266606e-18
C231 aux10  gate1  8.9266606e-18
C232 aux11  gate1  5.554106e-18
C233 aux12  gate1  5.554106e-18
C234 aux13  gate1  5.554106e-18
C235 gate1  aux14  5.5076935e-18
C236 gate1  aux15  5.5076935e-18
C237 gate1  aux16  5.5076935e-18
C238 cont4  gate2  1.8513687e-18
C239 cont4  gate3  1.8513687e-18
C240 cont4  cont7  3.5778697e-19
C241 cont8  cont4  2.4074881e-18
C242 cont4  gate4  1.8513687e-18
C243 cont4  cont6  3.5778697e-19
C244 cont4  vdd    3.5778697e-19
C245 cont4  cont9  3.5778697e-19
C246 cont4  gate5  1.8513687e-18
C247 cont10 cont4  2.4074881e-18
C248 cont4  gate6  1.8513687e-18
C249 cont4  cont11 3.5778697e-19
C250 cont4  gate7  1.8513687e-18
C251 cont4  aux1   5.554106e-18
C252 cont4  aux2   5.554106e-18
C253 cont4  aux3   5.554106e-18
C254 cont4  aux4   5.554106e-18
C255 cont4  aux5   5.554106e-18
C256 cont4  aux6   5.554106e-18
C257 cont4  aux7   5.554106e-18
C258 aux8   cont4  7.2224643e-18
C259 aux9   cont4  7.2224643e-18
C260 aux10  cont4  7.2224643e-18
C261 cont4  aux14  1.0733609e-18
C262 cont4  aux15  1.0733609e-18
C263 cont4  aux16  1.0733609e-18
C264 cont5  gate2  1.8513687e-18
C265 gate2  cont7  1.8358978e-18
C266 cont8  gate2  2.9755535e-18
C267 gate2  cont6  1.8358978e-18
C268 gate2  vdd    1.8358978e-18
C269 gate2  cont9  1.8358978e-18
C270 cont10 gate2  2.9755535e-18
C271 gate2  cont11 1.8358978e-18
C272 aux8   gate2  8.9266606e-18
C273 aux9   gate2  8.9266606e-18
C274 aux10  gate2  8.9266606e-18
C275 aux11  gate2  5.554106e-18
C276 aux12  gate2  5.554106e-18
C277 aux13  gate2  5.554106e-18
C278 gate2  aux14  5.5076935e-18
C279 gate2  aux15  5.5076935e-18
C280 gate2  aux16  5.5076935e-18
C281 cont5  gate3  1.8513687e-18
C282 cont5  cont7  3.5778697e-19
C283 cont8  cont5  2.4074881e-18
C284 cont5  gate4  1.8513687e-18
C285 cont5  cont6  3.5778697e-19
C286 cont5  vdd    3.5778697e-19
C287 cont5  cont9  3.5778697e-19
C288 cont5  gate5  1.8513687e-18
C289 cont10 cont5  2.4074881e-18
C290 cont5  gate6  1.8513687e-18
C291 cont5  cont11 3.5778697e-19
C292 cont5  gate7  1.8513687e-18
C293 cont5  aux1   5.554106e-18
C294 cont5  aux2   5.554106e-18
C295 cont5  aux3   5.554106e-18
C296 cont5  aux4   5.554106e-18
C297 cont5  aux5   5.554106e-18
C298 cont5  aux6   5.554106e-18
C299 cont5  aux7   5.554106e-18
C300 aux8   cont5  7.2224643e-18
C301 aux9   cont5  7.2224643e-18
C302 aux10  cont5  7.2224643e-18
C303 cont5  aux14  1.0733609e-18
C304 cont5  aux15  1.0733609e-18
C305 cont5  aux16  1.0733609e-18
C306 gate3  cont7  1.8358978e-18
C307 cont8  gate3  2.9755535e-18
C308 gate3  cont6  1.8358978e-18
C309 gate3  vdd    1.8358978e-18
C310 gate3  cont9  1.8358978e-18
C311 cont10 gate3  2.9755535e-18
C312 gate3  cont11 1.8358978e-18
C313 aux8   gate3  8.9266606e-18
C314 aux9   gate3  8.9266606e-18
C315 aux10  gate3  8.9266606e-18
C316 aux11  gate3  5.554106e-18
C317 aux12  gate3  5.554106e-18
C318 aux13  gate3  5.554106e-18
C319 gate3  aux14  5.5076935e-18
C320 gate3  aux15  5.5076935e-18
C321 gate3  aux16  5.5076935e-18
C322 cont8  cont7  2.4354666e-18
C323 gate4  cont7  1.8358978e-18
C324 gate5  cont7  1.8358978e-18
C325 cont10 cont7  2.4354666e-18
C326 gate6  cont7  1.8358978e-18
C327 gate7  cont7  1.8358978e-18
C328 aux1   cont7  5.5076935e-18
C329 aux2   cont7  5.5076935e-18
C330 aux3   cont7  5.5076935e-18
C331 aux4   cont7  5.5076935e-18
C332 aux5   cont7  5.5076935e-18
C333 aux6   cont7  5.5076935e-18
C334 aux7   cont7  5.5076935e-18
C335 aux8   cont7  7.3063997e-18
C336 aux9   cont7  7.3063997e-18
C337 aux10  cont7  7.3063997e-18
C338 aux11  cont7  1.0733609e-18
C339 aux12  cont7  1.0733609e-18
C340 aux13  cont7  1.0733609e-18
C341 cont8  gate4  2.9755535e-18
C342 cont8  cont6  2.4354666e-18
C343 cont8  vdd    2.4354666e-18
C344 cont8  cont9  2.4354666e-18
C345 cont8  gate5  2.9755535e-18
C346 cont8  gate6  2.9755535e-18
C347 cont8  cont11 2.4354666e-18
C348 cont8  gate7  2.9755535e-18
C349 cont8  aux1   8.9266606e-18
C350 cont8  aux2   8.9266606e-18
C351 cont8  aux3   8.9266606e-18
C352 cont8  aux4   8.9266606e-18
C353 cont8  aux5   8.9266606e-18
C354 cont8  aux6   8.9266606e-18
C355 cont8  aux7   8.9266606e-18
C356 cont8  aux11  7.2224643e-18
C357 cont8  aux12  7.2224643e-18
C358 cont8  aux13  7.2224643e-18
C359 cont8  aux14  7.3063997e-18
C360 cont8  aux15  7.3063997e-18
C361 cont8  aux16  7.3063997e-18
C362 gate4  cont6  1.8358978e-18
C363 gate4  vdd    1.8358978e-18
C364 gate4  cont9  1.8358978e-18
C365 cont10 gate4  2.9755535e-18
C366 gate4  cont11 1.8358978e-18
C367 aux8   gate4  8.9266606e-18
C368 aux9   gate4  8.9266606e-18
C369 aux10  gate4  8.9266606e-18
C370 aux11  gate4  5.554106e-18
C371 aux12  gate4  5.554106e-18
C372 aux13  gate4  5.554106e-18
C373 gate4  aux14  5.5076935e-18
C374 gate4  aux15  5.5076935e-18
C375 gate4  aux16  5.5076935e-18
C376 gate5  cont6  1.8358978e-18
C377 cont10 cont6  2.4354666e-18
C378 gate6  cont6  1.8358978e-18
C379 gate7  cont6  1.8358978e-18
C380 aux1   cont6  5.5076935e-18
C381 aux2   cont6  5.5076935e-18
C382 aux3   cont6  5.5076935e-18
C383 aux4   cont6  5.5076935e-18
C384 aux5   cont6  5.5076935e-18
C385 aux6   cont6  5.5076935e-18
C386 aux7   cont6  5.5076935e-18
C387 aux8   cont6  7.3063997e-18
C388 aux9   cont6  7.3063997e-18
C389 aux10  cont6  7.3063997e-18
C390 aux11  cont6  1.0733609e-18
C391 aux12  cont6  1.0733609e-18
C392 aux13  cont6  1.0733609e-18
C393 gate5  vdd    1.8358978e-18
C394 cont10 vdd    2.4354666e-18
C395 gate6  vdd    1.8358978e-18
C396 gate7  vdd    1.8358978e-18
C397 aux1   vdd    5.5076935e-18
C398 aux2   vdd    5.5076935e-18
C399 aux3   vdd    5.5076935e-18
C400 aux4   vdd    5.5076935e-18
C401 aux5   vdd    5.5076935e-18
C402 aux6   vdd    5.5076935e-18
C403 aux7   vdd    5.5076935e-18
C404 aux8   vdd    7.3063997e-18
C405 aux9   vdd    7.3063997e-18
C406 aux10  vdd    7.3063997e-18
C407 aux11  vdd    1.0733609e-18
C408 aux12  vdd    1.0733609e-18
C409 aux13  vdd    1.0733609e-18
C410 gate5  cont9  1.8358978e-18
C411 cont10 cont9  2.4354666e-18
C412 gate6  cont9  1.8358978e-18
C413 gate7  cont9  1.8358978e-18
C414 aux1   cont9  5.5076935e-18
C415 aux2   cont9  5.5076935e-18
C416 aux3   cont9  5.5076935e-18
C417 aux4   cont9  5.5076935e-18
C418 aux5   cont9  5.5076935e-18
C419 aux6   cont9  5.5076935e-18
C420 aux7   cont9  5.5076935e-18
C421 aux8   cont9  7.3063997e-18
C422 aux9   cont9  7.3063997e-18
C423 aux10  cont9  7.3063997e-18
C424 aux11  cont9  1.0733609e-18
C425 aux12  cont9  1.0733609e-18
C426 aux13  cont9  1.0733609e-18
C427 cont10 gate5  2.9755535e-18
C428 gate5  cont11 1.8358978e-18
C429 aux8   gate5  8.9266606e-18
C430 aux9   gate5  8.9266606e-18
C431 aux10  gate5  8.9266606e-18
C432 aux11  gate5  5.554106e-18
C433 aux12  gate5  5.554106e-18
C434 aux13  gate5  5.554106e-18
C435 gate5  aux14  5.5076935e-18
C436 gate5  aux15  5.5076935e-18
C437 gate5  aux16  5.5076935e-18
C438 cont10 gate6  2.9755535e-18
C439 cont10 cont11 2.4354666e-18
C440 cont10 gate7  2.9755535e-18
C441 cont10 aux1   8.9266606e-18
C442 cont10 aux2   8.9266606e-18
C443 cont10 aux3   8.9266606e-18
C444 cont10 aux4   8.9266606e-18
C445 cont10 aux5   8.9266606e-18
C446 cont10 aux6   8.9266606e-18
C447 cont10 aux7   8.9266606e-18
C448 cont10 aux11  7.2224643e-18
C449 cont10 aux12  7.2224643e-18
C450 cont10 aux13  7.2224643e-18
C451 cont10 aux14  7.3063997e-18
C452 cont10 aux15  7.3063997e-18
C453 cont10 aux16  7.3063997e-18
C454 gate6  cont11 1.8358978e-18
C455 aux8   gate6  8.9266606e-18
C456 aux9   gate6  8.9266606e-18
C457 aux10  gate6  8.9266606e-18
C458 aux11  gate6  5.554106e-18
C459 aux12  gate6  5.554106e-18
C460 aux13  gate6  5.554106e-18
C461 gate6  aux14  5.5076935e-18
C462 gate6  aux15  5.5076935e-18
C463 gate6  aux16  5.5076935e-18
C464 gate7  cont11 1.8358978e-18
C465 aux1   cont11 5.5076935e-18
C466 aux2   cont11 5.5076935e-18
C467 aux3   cont11 5.5076935e-18
C468 aux4   cont11 5.5076935e-18
C469 aux5   cont11 5.5076935e-18
C470 aux6   cont11 5.5076935e-18
C471 aux7   cont11 5.5076935e-18
C472 aux8   cont11 7.3063997e-18
C473 aux9   cont11 7.3063997e-18
C474 aux10  cont11 7.3063997e-18
C475 aux11  cont11 1.0733609e-18
C476 aux12  cont11 1.0733609e-18
C477 aux13  cont11 1.0733609e-18
C478 aux8   gate7  8.9266606e-18
C479 aux9   gate7  8.9266606e-18
C480 aux10  gate7  8.9266606e-18
C481 aux11  gate7  5.554106e-18
C482 aux12  gate7  5.554106e-18
C483 aux13  gate7  5.554106e-18
C484 gate7  aux14  5.5076935e-18
C485 gate7  aux15  5.5076935e-18
C486 gate7  aux16  5.5076935e-18
C487 aux8   aux1   2.6779982e-17
C488 aux9   aux1   2.6779982e-17
C489 aux10  aux1   2.6779982e-17
C490 aux11  aux1   1.6662318e-17
C491 aux12  aux1   1.6662318e-17
C492 aux13  aux1   1.6662318e-17
C493 aux1   aux14  1.652308e-17
C494 aux1   aux15  1.652308e-17
C495 aux1   aux16  1.652308e-17
C496 aux8   aux2   2.6779982e-17
C497 aux9   aux2   2.6779982e-17
C498 aux10  aux2   2.6779982e-17
C499 aux11  aux2   1.6662318e-17
C500 aux12  aux2   1.6662318e-17
C501 aux13  aux2   1.6662318e-17
C502 aux2   aux14  1.652308e-17
C503 aux2   aux15  1.652308e-17
C504 aux2   aux16  1.652308e-17
C505 aux8   aux3   2.6779982e-17
C506 aux9   aux3   2.6779982e-17
C507 aux10  aux3   2.6779982e-17
C508 aux11  aux3   1.6662318e-17
C509 aux12  aux3   1.6662318e-17
C510 aux13  aux3   1.6662318e-17
C511 aux3   aux14  1.652308e-17
C512 aux3   aux15  1.652308e-17
C513 aux3   aux16  1.652308e-17
C514 aux8   aux4   2.6779982e-17
C515 aux9   aux4   2.6779982e-17
C516 aux10  aux4   2.6779982e-17
C517 aux11  aux4   1.6662318e-17
C518 aux12  aux4   1.6662318e-17
C519 aux13  aux4   1.6662318e-17
C520 aux4   aux14  1.652308e-17
C521 aux4   aux15  1.652308e-17
C522 aux4   aux16  1.652308e-17
C523 aux8   aux5   2.6779982e-17
C524 aux9   aux5   2.6779982e-17
C525 aux10  aux5   2.6779982e-17
C526 aux11  aux5   1.6662318e-17
C527 aux12  aux5   1.6662318e-17
C528 aux13  aux5   1.6662318e-17
C529 aux5   aux14  1.652308e-17
C530 aux5   aux15  1.652308e-17
C531 aux5   aux16  1.652308e-17
C532 aux8   aux6   2.6779982e-17
C533 aux9   aux6   2.6779982e-17
C534 aux10  aux6   2.6779982e-17
C535 aux11  aux6   1.6662318e-17
C536 aux12  aux6   1.6662318e-17
C537 aux13  aux6   1.6662318e-17
C538 aux6   aux14  1.652308e-17
C539 aux6   aux15  1.652308e-17
C540 aux6   aux16  1.652308e-17
C541 aux8   aux7   2.6779982e-17
C542 aux9   aux7   2.6779982e-17
C543 aux10  aux7   2.6779982e-17
C544 aux11  aux7   1.6662318e-17
C545 aux12  aux7   1.6662318e-17
C546 aux13  aux7   1.6662318e-17
C547 aux7   aux14  1.652308e-17
C548 aux7   aux15  1.652308e-17
C549 aux7   aux16  1.652308e-17
C550 aux8   aux11  2.1667393e-17
C551 aux8   aux12  2.1667393e-17
C552 aux8   aux13  2.1667393e-17
C553 aux8   aux14  2.1919199e-17
C554 aux8   aux15  2.1919199e-17
C555 aux8   aux16  2.1919199e-17
C556 aux9   aux11  2.1667393e-17
C557 aux9   aux12  2.1667393e-17
C558 aux9   aux13  2.1667393e-17
C559 aux9   aux14  2.1919199e-17
C560 aux9   aux15  2.1919199e-17
C561 aux9   aux16  2.1919199e-17
C562 aux10  aux11  2.1667393e-17
C563 aux10  aux12  2.1667393e-17
C564 aux10  aux13  2.1667393e-17
C565 aux10  aux14  2.1919199e-17
C566 aux10  aux15  2.1919199e-17
C567 aux10  aux16  2.1919199e-17
C568 aux11  aux14  3.2200827e-18
C569 aux11  aux15  3.2200827e-18
C570 aux11  aux16  3.2200827e-18
C571 aux12  aux14  3.2200827e-18
C572 aux12  aux15  3.2200827e-18
C573 aux12  aux16  3.2200827e-18
C574 aux13  aux14  3.2200827e-18
C575 aux13  aux15  3.2200827e-18
C576 aux13  aux16  3.2200827e-18
